US06376478B1
2-[[[2-(Benzylcarboxy)propyl]hydroxyphosphinyl]methyl]pentanedioic acid
To a solution of di-tert-butyl 2-[[[2-(benzylcarboxy)propyl]tert-butoxyphosphinyl]methyl]pentane-1,5-dioate (1.6 g, 2.89 mmol) in dichloromethane (10 ml) under nitrogen was added trifluoroacetic acid (10 ml). The reaction mixture was stirred for two hours and then concentrated under reduced pressure. Additional dichloromethane was added to the reaction residue and removed under reduced pressure. The product was dissolved in ethyl acetate and washed with water, then the organic layer was dried over magnesium sulfate and the solvent was removed under reduced pressure leaving a clear oil (800 mg, 72%). 1H NMR (D2O): δ1.2 (m, 3H), 1.6-1.8 (m, 4H), 2.1 (m, 2H), 2.2 (m, 2H), 2.6 (m, 1H), 2.8 (m, 1H), 5.0 (m, 2H), 7.3 (m, 5H). Analysis calculated for C17H23PO8 1.0H2O: C, 50.50; H, 6.23. Found: C, 50.52; H, 5.92.

reactant | di-tert-butyl 2-[[[2-(benzylcarboxy)propyl]tert-butoxyphosphinyl]methyl]pentane-1,5-dioate | 2.89 mmol, 1.6 g | C(C1=CC=CC=C1)OC(=O)C(CP(=O)(OC(C)(C)C)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)C | C29H47O8P
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[[[2-(Benzylcarboxy)propyl]hydroxyphosphinyl]methyl]pentanedioic acid | 800 mg, 72% | C(C1=CC=CC=C1)OC(=O)C(CP(=O)(O)CC(C(=O)O)CCC(=O)O)C | C17H23O8P
